### PR TITLE
update ap-const

### PR DESCRIPTION
**Pull request by morphismz**
change notation used in definition

### CODE REVIEW

File: src/foundation-core/identity-types.lagda.md [hunk 1]
```diff
@@ -172,7 +173,7 @@ ap-inv f refl = refl
 
 ap-const :
   {i j : Level} {A : UU i} {B : UU j} (b : B) {x y : A}
-  (p : x ＝ y) → (ap (λ a → b) p) ＝ refl
+  (p : x ＝ y) → (ap (const A B b) p) ＝ (const (x ＝ y) (b ＝ b) refl) p
```
Comment (EgbertRijke) [inline src/foundation-core/identity-types.lagda.md:176]: Instead of `(const (x ＝ y) (b ＝ b) refl) p` you can just say `refl`

Comment (morphismz) [reply src/foundation-core/identity-types.lagda.md:176]: I thought it would be beneficial to phrase it like this, so that its easier to see this as a homotopy (and then use funext when we need an equality of functions). But I can change it to just refl

Comment (EgbertRijke) [reply src/foundation-core/identity-types.lagda.md]: Ah, I understand your idea. Still, let's keep it simple. Thanks again for doing this!
